US04886814
(c) 2-Trifluoromethyl-5-methyl-4-bromoacetyl-oxazole
3.8 g (0.02 mol) of 2-Trifluoromethyl-5-methyl-4-acetyl-oxazole are dissolved in 30 ml of glacial acetic acid, and 3 ml of a 33% strength solution of hydrogen bromide in glacial acetic acid are added. The mixture is heated to 80° C. and, over the course of 1 hour, a solution of 3.2 g (0.02 mol) of bromine in 10 ml of glacial acetic acid is added. After a further 30 minutes the glacial acetic acid is removed. The residue which remains is a dark oil which is reacted further as the crude product.

reactant | 2-Trifluoromethyl-5-methyl-4-acetyl-oxazole | 0.02 mol, 3.8 g | FC(C=1OC(=C(N1)C(C)=O)C)(F)F | C7H6F3NO2
reactant | hydrogen bromide | Br | BrH
reactant | bromine | 0.02 mol, 3.2 g | BrBr | Br2
solvent | acetic acid | 30 ml | C(C)(=O)O | C2H4O2
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | 2-Trifluoromethyl-5-methyl-4-bromoacetyl-oxazole | FC(C=1OC(=C(N1)C(CBr)=O)C)(F)F | C7H5BrF3NO2
